US07576215B2
3-[3-(2,5-DIMETHYLPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL
The title compound was prepared from [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone and (2,5-Dimethyl-phenyl)-acetaldehyde following the procedure of Example 457: MS (ESI) m/z 394; HRMS: calcd for C24H18F3NO+H+, 394.14132; found (ESI, [M+H]+), 394.1402.

reactant | [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC(=CC=C1)O | C14H10F3NO2
reactant | (2,5-Dimethyl-phenyl)-acetaldehyde | CC1=C(C=C(C=C1)C)CC=O | C10H12O
product | 3-[3-(2,5-DIMETHYLPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL | CC1=C(C=C(C=C1)C)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C24H18F3NO
